Name:  ___.         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
amoxicillin / latex
 
Attending: ___
 
Chief Complaint:
fibroid uterus, secondary infertility
 
Major Surgical or Invasive Procedure:
robotic assisted myomectomy with mini laparotomy

 
History of Present Illness:
Ms. ___ is a ___ G4 ___ (TAB ×2, SAB ×2) 
premenopausal ___ female ___ with asthma, secondary 
infertility, h/o cervical dysplasia (s/p LEEP), and known 
fibroid uterus.  Patient has been managed by yourself for 
uterine fibroids in the setting of desired fertility.  Per 
patient
report, she underwent infertility testing at an outside 
institution ___ years ago. Per patient report the fertility workup 
was negative.  However per your email complication, it appears 
that the patient was informed she is not a good candidate for 
IVF with an elevated blood test reflecting this. On review the 
patient's symptoms, she reports regular menses at 28 intervals 
with ___ days of moderate to light flow.  She denies any 
menorrhagia or dysmenorrhea.  She does report urinary frequency 
but admits to high caffeine and fluid intake.  She
denies dyspareunia or other gynecologic symptoms.

She had a pelvic ultrasound for evaluation of her fibroids 
(___) at ___ which revealed a 9.8 cm left fundal 
fibroid.  The pelvic ultrasound was otherwise unremarkable.

 
Past Medical History:
OBSTETRIC HISTORY: G4 ___, between the age of ___
- TAB ×2 
- ___ trimester SAB x1, 
- ___ trimester SAB x1 @ 17wks, incompetent cervix 

GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP ___
-Regular cycles q 28 days ___ days moderate to light flow, 
minor
dysmenorrhea, denies significant pelvic pain, denies 
dyspareunia.
Reports urinary frequency but admits to high fluid in Intake. 
Primary complaints are bloating and gaseousness for the last ___
years.
- Pt is sexually active, heterosexual, did not report total
sexual partners throughout life.
- Contraception: None
- STD History: "NSV"

HEALTHCARE MAINTENANCE:
- Last PAP ( ___.  This is: Reportedly negative.  Reports a
history of abnormal Pap but is unable to recall the exact
diagnosis.  She had a LEEP procedure in ___ with normal Pap
since.  Results NA for my review.

MEDICAL PROBLEMS:  
1.  Asthma 
2.  Secondary infertility, REI workup ___.  Per ___
email, patient is reportedly a poor candidate for IVF.  REI
records not available for my review.  
3.  History of STD
4.  History of cervical dysplasia, status post LEEP procedure
___, normal Pap since.
5.  Uterine fibroids
6.  Elective laparoscopic lap band procedure in ___

SURGICAL HISTORY:  
1.  ___, LEEP procedure, ___
2.  ___, laparoscopic lap band procedure, elective, in ___.

 
Social History:
___
Family History:
FAMILY HISTORY:
- Family h/o gynecologic cancers: Yes
.  Breast cancer ×1 (maternal grandmother)
.  Uterine cancer ×1 (paternal grandmother)
- Maternal grandmother with diabetes and breast cancer
- Mother with hypertension, hypercholesterolemia
- Father with colon cancer.

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
VSS
Gen: NAD
Cv: RRR
P: CTAB, no respiratory distress on RA
Abd: soft, appropriately TTP in ___ lower quadrants, incisions 
c/d/I
GU: Pad with minimal spotting
Ext: WWP
 
Pertinent Results:
___ 06:36AM   WBC-13.4*# RBC-3.54* HGB-9.7* HCT-30.2* 
MCV-85 MCH-27.4 MCHC-32.1 RDW-14.1 RDWSD-43.8
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing a robotic assisted myomectomy and 
mini-laparotomy for known fibroid uterus and secondary 
infertility. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid. On 
post-operative day 1, her urine output was adequate so her foley 
was removed and she voided spontaneously.  Hematocrit was 30 on 
POD #1.  On POD #2, hematocrit was 24, therefore a repeat 
hematocrit was obtained 6 hours later which was stable at 24.  
The patient did not require transfusion and her vital signs 
remained stable with good urine output.  

Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone and Tylenol for pain control. She 
was also given IV Toradol.  Her pain was inadequately controlled 
on PO oxycodone and so she was transitioned to PO dilaudid, 
which was much more effective.  

The patient's postoperative course was unremarkable.  By 
post-operative day 2, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications.  She was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
Albuterol INH
ProAir HFA
 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath, cough 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*30 Tablet Refills:*0
5. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___